US04927938
5-Chloro-6-hydroxynicotinoyl chloride
6.3 g (36 mmol) of 5-chloro-6-hydroxynicotinic acid are heated under reflux in 60 ml of thionyl chloride for 4 hours. After the volatile constituents have been stripped off, 50 ml of toluene are added and the mixture is evaporated again. Colorless crystals, yield 6.9 g (quantitative), melting point: >250° C.

reactant | 5-chloro-6-hydroxynicotinic acid | 36 mmol, 6.3 g | ClC=1C(=NC=C(C(=O)O)C1)O | C6H4ClNO3
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 60 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-Chloro-6-hydroxynicotinoyl chloride | ClC=1C(=NC=C(C(=O)Cl)C1)O | C6H3Cl2NO2
